US07071175B1
To a solution of N-(5-butyryl-pyridin-2-yl)-2,2-dimethyl-propionamide (2.47 g, 9.95 mmol) in ethanol (20 mL) sodium borohydride (185 mg, 5.0 mmol) was added. After 40 min stirring at room temperature the mixture was acidified with 1 N hydrochloric acid to pH 2 and stirred for 10 min. After neutralisation with sodium hydrogencarbonate the mixture was extracted three times with dichloromethane. The combined organic extracts were washed twice with sodium hydrogen carbonate solution and once with brine. After drying and concentration under reduced pressure the residue was purified by flash chromatography (dichloromethane/methanol 30:1) to give N-[5-(1-hydroxy-butyl)-pyridin-2-yl]-2,2-dimethyl-propionamide (1.025 g, 41%).

reactant | N-(5-butyryl-pyridin-2-yl)-2,2-dimethyl-propionamide | 9.95 mmol, 2.47 g | C(CCC)(=O)C=1C=CC(=NC1)NC(C(C)(C)C)=O | C14H20N2O2
reactant | ethanol | 5.0 mmol, 20 mL, 185 mg | C(C)O | C2H6O
reactant | hydrochloric acid | 1 N | Cl | ClH
product | N-[5-(1-hydroxy-butyl)-pyridin-2-yl]-2,2-dimethyl-propionamide | 1.025 g, 41% | OC(CCC)C=1C=CC(=NC1)NC(C(C)(C)C)=O | C14H22N2O2
